US06809110B2
In analogy to the procedure described in example 14 b], (Z)-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-acrylic acid ethyl ester was reacted with 4-chloromethyl-2-(4-chloro-phenyl)-thiazole (example 14 a]) in the presence of cesium carbonate and potassium iodide to yield (Z)-2-ethoxy-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid ethyl ester as colorless crystals.

reactant | (Z)-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=C(C=C(C=C1)O)C)/OCC)=O | C14H18O4
reactant | 4-chloromethyl-2-(4-chloro-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (Z)-2-ethoxy-3-{4-[2-(4-chloro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-acrylic acid ethyl ester | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C)/OCC)=O | C24H24ClNO4S
